### PR TITLE
[Merged by Bors] - feat: integrability in a product space

### PR DESCRIPTION
**Pull request by EtienneC30**
Prove that `f : (i : ι) → X → E i` is in `Lᵖ` if and only if for all `i`, `f i` is in `Lᵖ`. Do the same for `f : X → (E × F)`. Also provide `WithLp` versions.

from BrownianMotion

---

- [x] depends on: #27721

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Eval/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,149 @@
...
+import Mathlib.MeasureTheory.Integral.Bochner.ContinuousLinearMap
+
+/-!
+# Integrability in a product space
+
+We prove that `f : (i : ι) → X → E i` is in `Lᵖ` if and only if for all `i`, `f i` is in `Lᵖ`.
+We do the same for `f : X → (E × F)`.
+-/
+
+section aux
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Eval/Basic.lean]: Could you find a better place for the statements in that aux section? They have nothing to do with measure theory.

**Comment by ADedecker** [comment]
I recently added the folder `Mathlib.MeasureTheory.SpecificCodomains` with some specific integrability criterions depending on the codomain. What do you think of moving your results there, e.g in files called `Pi.lean` and `PiLp.lean` ?

**Comment by ADedecker** [comment]
Ah, but you also have results for when the *domain* is a product space. Would these make more sense in an existing file about product measures? If not, feel free to ignore my suggestion.

File: Mathlib/MeasureTheory/Integral/Eval/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,103 @@
...
+alias ⟨Integrable.eval, Integrable.of_eval⟩ := integrable_pi_iff
+
+variable [∀ i, NormedSpace ℝ (E i)] [∀ i, CompleteSpace (E i)]
+
+lemma eval_integral (hf : ∀ i, Integrable (f i) μ) (i : ι) :
+    (∫ x, (f · x) ∂μ) i = ∫ x, f i x ∂μ := by
+  rw [← ContinuousLinearMap.proj_apply (R := ℝ) i (∫ x, (f · x) ∂μ),
+    ← ContinuousLinearMap.integral_comp_comm]
+  · simp
+  exact Integrable.of_eval hf
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/Eval/Basic.lean]:
```suggestion
  simp [← ContinuousLinearMap.proj_apply (R := ℝ) i (∫ x, (f · x) ∂μ),
    ← ContinuousLinearMap.integral_comp_comm _ (Integrable.of_eval hf)]
```

File: Mathlib/MeasureTheory/Integral/Eval/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+Authors: Etienne Marion
+-/
+import Mathlib.MeasureTheory.Constructions.Pi
+import Mathlib.MeasureTheory.Integral.Bochner.ContinuousLinearMap
+
+/-!
+# Integrability in a product space
+
+We prove that `f : (i : ι) → X → E i` is in `Lᵖ` if and only if for all `i`, `f i` is in `Lᵖ`.
+We do the same for `f : X → (E × F)`.
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/Eval/Basic.lean]: This docstring sounds a bit weird to me because of the order of parameters. In fact, I think it would be more natural to use `f : X → (i : ι) → E i` in the whole file (this would align with, e.g, [continuous_pi_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Constructions.html#continuous_pi_iff), and also with the case of binary products). Is there a reason you chose to put the arguments in that order?

File: Mathlib/Topology/MetricSpace/Injection.lean [hunk 4]
```diff
@@ -0,0 +1,44 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Etienne Marion
+-/
+import Mathlib.Analysis.Normed.Group.Basic
+import Mathlib.Order.ConditionallyCompleteLattice.Finset
+import Mathlib.Topology.MetricSpace.Isometry
+
+/-!
+# Injections in product spaces are isometries
+-/
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Injection.lean]: I think the content of this file can fit next to [Isometry.piMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Isometry.html#Isometry.piMap). Do you have further things to add to this file later?

File: Mathlib/Analysis/NormedSpace/OperatorNorm/NormedSpace.lean [hunk 5]
```diff
@@ -352,3 +353,27 @@ protected theorem NormedSpace.equicontinuous_TFAE : List.TFAE
...
+variable {ι 𝕜 : Type*} [Fintype ι] [DecidableEq ι] [NontriviallyNormedField 𝕜] {E : ι → Type*}
+
+lemma ContinuousLinearMap.norm_single_le_one [∀ i, SeminormedAddCommGroup (E i)]
+    [∀ i, NormedSpace 𝕜 (E i)] (i : ι) :
+    ‖ContinuousLinearMap.single 𝕜 E i‖ ≤ 1 := by
+  have : Isometry (ContinuousLinearMap.single 𝕜 E i).toLinearMap := Isometry.single i
+  change
+    ‖((ContinuousLinearMap.single 𝕜 E i).toLinearMap.toLinearIsometry
+      this).toContinuousLinearMap‖ ≤ 1
+  exact LinearIsometry.norm_toContinuousLinearMap_le _
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/NormedSpace.lean]: Why not define `LinearIsometry.single`?

**Review by ADedecker — APPROVED** [review]

**Comment by EtienneC30** [comment]
> Ah, but you also have results for when the _domain_ is a product space. Would these make more sense in an existing file about product measures? If not, feel free to ignore my suggestion.

I will split the files to get the part with a Pi codomain into the `SpecificCodomains` folder.

File: Mathlib/MeasureTheory/Integral/Eval/Basic.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Integral/Eval/Basic.lean]: You're right I'll switch the arguments. I wrote it this way because in measure theory we often consider a family of variables so we put the parameters in this order but it makes more sense to flip them in this context.

File: Mathlib/Topology/MetricSpace/Injection.lean (hunk 4 above)
Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/Injection.lean]: No I don't, I just did not want to increase the imports of an existing file, but I will put them here if it does not increase imports too much.

Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/Injection.lean]: In fact I just slightly changed the proof so I don't need to modify imports at all.

File: Mathlib/MeasureTheory/SpecificCodomains/Pi.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+variable {X : Type*} {mX : MeasurableSpace X} {μ : Measure X} {p : ℝ≥0∞}
+
+section Pi
+
+variable {ι : Type*} [Fintype ι] {E : ι → Type*} [∀ i, NormedAddCommGroup (E i)]
+    {f : X → Π i, E i}
+
+lemma memLp_pi_iff : MemLp f p μ ↔ ∀ i, MemLp (f · i) p μ where
+  mp hf i := by
+    exact (LipschitzWith.eval i).comp_memLp rfl hf
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/SpecificCodomains/Pi.lean]: Is the `by exact` necessary?

File: Mathlib/MeasureTheory/Integral/Pi.lean [hunk 7]
```diff
@@ -97,28 +98,45 @@ theorem integral_fin_nat_prod_volume_eq_prod {n : ℕ} {E : Fin n → Type*}
...
-theorem integral_fintype_prod_volume_eq_pow {E : Type*} (ι : Type*) [Fintype ι] (f : E → 𝕜)
+theorem integral_fintype_prod_volume_eq_pow {E : Type*} (f : E → 𝕜)
     [MeasureSpace E] [SigmaFinite (volume : Measure E)] :
-    ∫ x : ι → E, ∏ i, f (x i) = (∫ x, f x) ^ (card ι) := integral_fintype_prod_eq_pow _ _
+    ∫ x : ι → E, ∏ i, f (x i) = (∫ x, f x) ^ (card ι) := integral_fintype_prod_eq_pow _
+
+variable {X : ι → Type*} {mX : ∀ i, MeasurableSpace (X i)} {μ : (i : ι) → Measure (X i)}
+    {E : Type*} [NormedAddCommGroup E]
+
+lemma integrable_eval_pi [∀ i, IsFiniteMeasure (μ i)] {i : ι} {f : X i → E}
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/Pi.lean]:
```suggestion
lemma integrable_comp_eval [∀ i, IsFiniteMeasure (μ i)] {i : ι} {f : X i → E}
```
Maybe? If you don't like it feel free to ignore.

File: Mathlib/MeasureTheory/Integral/Pi.lean [hunk 8]
```diff
@@ -97,28 +98,45 @@ theorem integral_fin_nat_prod_volume_eq_prod {n : ℕ} {E : Fin n → Type*}
...
+    (hf : Integrable f (μ i)) :
+    Integrable (fun x ↦ f (x i)) (Measure.pi μ) := by
+  simp_rw [← Function.eval_apply (x := i)]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/Pi.lean]:
```suggestion
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/MeasureTheory/Integral/Pi.lean (hunk 7 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Integral/Pi.lean]: Indeed that's better! I also renamed `integral_eval_pi` to `integral_comp_eval`.

File: Mathlib/MeasureTheory/SpecificCodomains/Pi.lean (hunk 6 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/SpecificCodomains/Pi.lean]: It was because otherwise it could not infer the type in `LipschitzWith.eval`, but I put it explicitely to remove the `by exact`.

**Comment by EtienneC30** [comment]
Thanks!
bors merge
